US07834014B2
(7RS,9aRS)-[2-(7-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-5-yl)-octahydro-pyrido[1,2-a]pyrazin-7-yl]-methanol
2-Furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine (1 eq.; for reference, see J. Chem. Soc. Perkin Trans. 1, 801 (1995)) and cis-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol (1-2 eq; see U.S. Pat. No. 5,122,525) were dissolved in DMSO. The mixture was stirred at around 80° C. for 2 hours. The solution was then cooled to room temperature, filtered and purified by preparative HPLC using aqueous CH3CN solution (buffered with 0.1% TFA) to give the desired compound as a white solid. Alternatively, for scale up synthesis, the DMSO solvent was removed and the crude product was chromatographed on silica gel column using 5-10% MeOH/CH2Cl2 as eluant to afford the desired product. 1H NMR (400 Hz, CD3OD) δ 7.70 (d, J=2.0 Hz, 1H), 7.12 (d, J=3.5 Hz, 1H), 6.62 (dd, J=3.5, 2.0 Hz, 1H), 4.75 (d, J=12.0 Hz, 1H), 4.65 (d, J=12.5 Hz, 1H), 3.82 (dd, J=10.5, 7.5 Hz, 1H), 3.74 (dd, J=10.5, 7.5 Hz, 1H), 3.11 (dt, J=13.0, 3.0 Hz, 1H), 2.93 (d, J=11.5 Hz, 1H), 2.78 (d, J=11.5 Hz, 1H), 2.68 (dd, J=13.0, 10.5 Hz, 1H), 2.22 (dd, J=11.5, 3.0 Hz, 1H), 2.14 (dt, J=12.0, 3.0 Hz, 1H), 1.93 (m, 1H), 1.85 (brd, J=12.0 Hz, 2H), 1.60 (m, 1H), 1.43 (m, 2H). MS m/z: 371 [M+H]+.

reactant | 2-Furan-2-yl-5-methanesulfonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-7-ylamine | 1 eq. | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)S(=O)(=O)C)=N1 | C9H8N6O3S
reactant | cis-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol | C1[C@H]2N(CCN1)C[C@@H](CC2)CO | C9H18N2O
solvent | DMSO | CS(=O)C | C2H6OS
product | (7RS,9aRS)-[2-(7-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazin-5-yl)-octahydro-pyrido[1,2-a]pyrazin-7-yl]-methanol | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)N2CC1N(CC2)CC(CC1)CO | C17H22N8O2
